US07884101B2
Preparation of N-{3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-[2-(4-methanesulfonylamino-piperidin-1-yl)-ethoxy]-phenyl}-3-trifluoromethyl-benzamide (Compound 757). Method AH
N-[4-[2-(4-Amino-piperidin-1-yl)-ethoxy]-3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-phenyl]-3-trifluoromethyl-benzamide (0.038 g, 0.073 mmol) was dissolved in DMA (2.0 mL) in a vial with stir bar. Methanesulfonyl chloride (0.0085 g, 0.11 mmol) was added and the reaction was stirred at rt overnight. The reaction was concentrated, added to NaHCO3 (5 mL), and the solution was extracted with EtOAc (2×20 mL). The organic extracts were dried (Na2SO4), filtered, concd and purified by prep HPLC to afford the title compound (0.016 g, 0.026 mmol, 35%, TFA salt) as a white solid. LCMS m/z (%)=600 (M+H35Cl, 100), 602 (M+H37Cl, 36). 1H NMR (400 MHz, DMSO-d6) δ: 10.54 (s, 1H), 9.30 (s, 1H), 8.30 (s, 1H), 8.26 (d, J=8.0 Hz, 1H), 7.97 (m, 2H), 7.80 (m, 1H), 7.72 (d, J=2.6 Hz, 1H), 7.68 (s, 1H), 7.31 (m, 1H), 4.40 (m, 1H), 4.32 (m, 1H), 3.69 (s, 3H), 3.50-2.90 (m, 7H), 2.95 (s, 3H), 2.00-1.50 (m, 4H).

reactant | N-[4-[2-(4-Amino-piperidin-1-yl)-ethoxy]-3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-phenyl]-3-trifluoromethyl-benzamide | 0.073 mmol, 0.038 g | NC1CCN(CC1)CCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C=1N(N=CC1Cl)C | C25H27ClF3N5O2
reactant | Methanesulfonyl chloride | 0.11 mmol, 0.0085 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMA | 2.0 mL | CC(=O)N(C)C | C4H9NO
product | N-{3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-[2-(4-methanesulfonylamino-piperidin-1-yl)-ethoxy]-phenyl}-3-trifluoromethyl-benzamide | 0.026 mmol, 0.016 g, 35% | ClC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CCC(CC1)NS(=O)(=O)C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C26H29ClF3N5O4S
